US04345934
(A) 3-(p-cyanophenylhydrazono)-4-oxo-6-methyl pyr-2-one
To a mixture of 5.9 g (0.05 mol) 4-aminobenzonitrile and 20 ml of 12 N hydrochloric acid in 25 ml of water, cooled to 5° C., there is added dropwise a solution of 3.8 g (0.055 mol) sodium nitrite in 10 ml of water. The solution formed is added to an ice cooled solution of 6.3 g (0.05 mol) 4-hydroxy-6-methyl pyr-2-one and 22 g (0.205 ml) of sodium carbonate in 125 ml of water. The suspension formed is stirred at 5° C. for 1 hr., at room temperature for 3 hrs. and is vacuum filtered. The filter cake is air dried to afford 12 g (94% yield) of product, mp 300° C.

reactant | 4-aminobenzonitrile | 0.05 mol, 5.9 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | hydrochloric acid | 12 N, 20 ml | Cl | ClH
reactant | sodium nitrite | 0.055 mol, 3.8 g | N(=O)[O-].[Na+]
reactant | 4-hydroxy-6-methyl pyr-2-one | 0.05 mol, 6.3 g | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | sodium carbonate | 0.205 ml, 22 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 25 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | water | 125 ml | O | H2O
product | 3-(p-cyanophenylhydrazono)-4-oxo-6-methyl pyr-2-one | 12 g, 94% yield | C(#N)C1=CC=C(C=C1)NN=C1C(OC(=CC1=O)C)=O | C13H9N3O3
